US04131674
Phenyl chloroformate (126 g.) is added to a suspension of 2-(7-chloro-1,8-naphthyridin-2-yl)-3-hydroxyisoindolin-1-one (86.5 g.) in pyridine (980 cc.), whilst keeping the temperature at about 25° C. The reaction mixture is stirred for 3 hours at a temperature of about 20° C., after which it is poured into ice-water (9,000 cc.). The product which crystallises is filtered off, washed with water (6 × 500 cc.) and then with acetonitrile (3 × 200 cc.). After drying, 2-(7-chloro-1,8-naphthyridin-2-yl)-3-phenoxycarbonyloxy-isoindolin-1-one (96.7 g.), melting at 235° C. with decomposition, is obtained.

reactant | Phenyl chloroformate | 126 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | 2-(7-chloro-1,8-naphthyridin-2-yl)-3-hydroxyisoindolin-1-one | 86.5 g | ClC1=CC=C2C=CC(=NC2=N1)N1C(C2=CC=CC=C2C1O)=O | C16H10ClN3O2
solvent | pyridine | 980 cc | N1=CC=CC=C1 | C5H5N
product | 2-(7-chloro-1,8-naphthyridin-2-yl)-3-phenoxycarbonyloxy-isoindolin-1-one | 96.7 g | ClC1=CC=C2C=CC(=NC2=N1)N1C(C2=CC=CC=C2C1OC(=O)OC1=CC=CC=C1)=O | C23H14ClN3O4
